US06395734B1
Crude 4′-methoxy-3-nitro-biphenyl-4-malonate was heated at 100° C. in 60 mL 6 N hydrochloric acid for 15 hours and cooled. The precipitate which formed was collected by filtration, washed with water and hexane, and dried to give 7.2 g of crude 4′-methoxy-3-nitrobiphenyl-4-acetic acid as a light tan solid.

reactant | 4′-methoxy-3-nitro-biphenyl-4-malonate | COC1=CC=C(C=C1)C1=CC(=C(C=C1)C(C(=O)[O-])C(=O)[O-])[N+](=O)[O-]
solvent | hydrochloric acid | 6 N, 60 mL | Cl | ClH
product | 4′-methoxy-3-nitrobiphenyl-4-acetic acid | 7.2 g | COC1=CC=C(C=C1)C1=CC(=C(C=C1)CC(=O)O)[N+](=O)[O-] | C15H13NO5
